US08835488B2
To a solution of 2-[4-(4-fluorophenyl)oxan-4-yl]ethan-1-amine (250 mg, 1.12 mmol) in anhydrous CH2Cl2 (5 ml) and NA2SO4 (159 mg, 1.12 mmol) at rt was added benzaldehyde (0.17 ml, 1.68 mmol). The reaction was stirred overnight. The reaction mixture was filtered and concentrated. The residue was dissolved in 5 ml MeOH at 0° C. and NaBH4 added in one portion (51 mg, 1.34 mmol). The reaction was stirred at 0° C. for 1 h. The solution was then quenched with H2O (10 ml), extracted with CH2Cl2 (3×20 ml), washed with brine (10 ml) and dried over NA2SO4. Purified by normal phase SiO2 chromatography (0 to 10% MeOH/CH2Cl2) to give benzyl({2-[4-(4-fluorophenyl) oxan-4-yl]ethyl})amine as a colorless oil (200 mg, 60%, m/z: 314.2 [M+H]+ observed).

reactant | 2-[4-(4-fluorophenyl)oxan-4-yl]ethan-1-amine | 1.12 mmol, 250 mg | FC1=CC=C(C=C1)C1(CCOCC1)CCN | C13H18FNO
reactant | benzaldehyde | 1.68 mmol, 0.17 ml | C(C1=CC=CC=C1)=O | C7H6O
solvent | CH2Cl2 | 5 ml | C(Cl)Cl | CH2Cl2
product | benzyl({2-[4-(4-fluorophenyl) oxan-4-yl]ethyl})amine | C(C1=CC=CC=C1)NCCC1(CCOCC1)C1=CC=C(C=C1)F | C20H24FNO
